US09108920B2
Step A: 3-(4-hydroxypiperidin-1-yl)benzonitrile
A dimethylsulfoxide (30 mL) solution of 3-fluorobenzonitrile (9.73 g, 80.0 mmol) and 4-hydroxypiperidine (8.15 g, 81 mmol) was heated to 100° C. and stirred for 5 hours. The solution was cooled to room temperature and added dropwise to water (500 mL). The mixture was extracted with ethyl acetate (2×300 mL) and washed with water (2×200 mL), brine (200 mL), dried (magnesium sulfate) and concentrated in vacuo to afford the crude product. Chromatography over silica gel, eluting with hexanes/ethyl acetate, afforded the title compound.

reactant | dimethylsulfoxide | 30 mL | CS(=O)C | C2H6OS
reactant | 3-fluorobenzonitrile | 80.0 mmol, 9.73 g | FC=1C=C(C#N)C=CC1 | C7H4FN
reactant | 4-hydroxypiperidine | 81 mmol, 8.15 g | OC1CCNCC1 | C5H11NO
solvent | water | 500 mL | O | H2O
product | 3-(4-hydroxypiperidin-1-yl)benzonitrile | OC1CCN(CC1)C=1C=C(C#N)C=CC1 | C12H14N2O
